US08791114B2
3-[1-(3-Fluoro-benzoyl)-4,5-dihydro-1H-pyrazol-3-yl]-benzonitrile.
A scintillation vial equipped with a stir bar was charged with [3-(3-bromo-phenyl)-4,5-dihydro-pyrazol-1-yl]-(3-fluoro-phenyl)-methanone (347 mg, 1.0 mmol), Zn(CN)2 (234 mg, 2.0 mmol), Zn dust (65 mg, 1.0 mmol) and DMA (10 mL). The mixture was degassed and then Pd(t-Bu3P)2 (51 mg, 0.1 mmol) was added. The mixture was heated at 80° C. for 4 h. LC-MS showed consumption of SM. The material was filtered through a pad of Fluorosil and the solvent was evaporated under reduced pressure. It was purified by chromatography using a 12 g silica cartridge eluting with heptane-EtOAc, gradient 30 to 100% EtOAc. Amount obtained: 225 mg, 0.76 mmol, 76% yield. LC-MS (ESI) m/e 294 (M+H). 1H NMR (CHLOROFORM-d) δ: 7.92-7.97 (m, 2H), 7.76 (d, J=7.8 Hz, 1H), 7.66-7.74 (m, 2H), 7.52-7.59 (m, 1H), 7.45 (td, J=8.0, 5.8 Hz, 1H), 7.20-7.30 (m, 1H), 4.32 (t, J=10.1 Hz, 2H), 3.26-3.34 (m, 2H). Step 2

reactant | [3-(3-bromo-phenyl)-4,5-dihydro-pyrazol-1-yl]-(3-fluoro-phenyl)-methanone | 1.0 mmol, 347 mg | BrC=1C=C(C=CC1)C1=NN(CC1)C(=O)C1=CC(=CC=C1)F | C16H12BrFN2O
reactant | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zn(CN)2 | 2.0 mmol, 234 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | 1.0 mmol, 65 mg | [Zn] | Zn
catalyst | Pd(t-Bu3P)2 | 0.1 mmol, 51 mg | CC(C)(C)P(C(C)(C)C)C(C)(C)C.CC(C)(C)P(C(C)(C)C)C(C)(C)C.[Pd]
product | 3-[1-(3-Fluoro-benzoyl)-4,5-dihydro-1H-pyrazol-3-yl]-benzonitrile | 76% yield | FC=1C=C(C(=O)N2N=C(CC2)C=2C=C(C#N)C=CC2)C=CC1 | C17H12FN3O
